US04246021
A mixture of acetyl chloride (77 g) and thionyl chloride (0.8 ml) was added, with stirring, to 3,4-dichlorobenzaldehyde dimethyl acetal (110 g). The mixture was kept at laboratory temperature (about 27° C.) for 22 hours and then evaporated at 30° C. under reduced pressure (0.15 mm Hg) for about 4 hours until constant in weight. 3,4-Dichloro-α-methoxybenzyl chloride (112 g) was thus obtained as an oil, which was used without further purification as a starting material in the above preparations.

reactant | acetyl chloride | 77 g | C(C)(=O)Cl | C2H3ClO
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-dichlorobenzaldehyde dimethyl acetal | 110 g | COC(C1=CC(=C(C=C1)Cl)Cl)OC | C9H10Cl2O2
product | 3,4-Dichloro-α-methoxybenzyl chloride | 112 g | ClC=1C=C(C(OC)Cl)C=CC1Cl | C8H7Cl3O
